US06022718
To a solution of 18.3 mg (0.06 mmol) of capsaicin dissolved in 7,000 μl of n-hexane were added 500 mg of Lipase OF and 684 μl (3 mmol) of oleic acid and 0.08 ml of distilled water and the mixture was allowed to react at 80° C. for a predetermined time with stirring. Thereafter, the reaction mixture was analyzed by high performance liquid chromatography and the amount of N-vanillyloleamide produced was determined.

reactant | capsaicin | 0.06 mmol, 18.3 mg | CC(C)/C=C/CCCCC(=O)NCC=1C=CC(=C(C1)OC)O | C18H27NO3
reactant | oleic acid | 3 mmol, 684 μl | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | water | 0.08 ml | O | H2O
solvent | n-hexane | 7,000 μl | CCCCCC | C6H14
product | N-vanillyloleamide | C(C1=CC(OC)=C(O)C=C1)NC(CCCCCCC\C=C/CCCCCCCC)=O | C26H43NO3
